US07371773B2
The hydroxyl group of 4-hydroxybenzaldehyde (24.9 g) was protected by use of 2-methoxyethoxymethyl chloride (24.4 g) in accordance with (production process 1), to thereby produce 4-methoxyethoxymethoxybenzaldehyde (33.5 g, yield: 80%). The thus-produced 4-methoxyethoxymethoxybenzaldehyde (21.0 g) and 3,4-dimethoxybenzyl cyanide (17.7 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce (Z)-2-(3,4-dimethoxyphenyl)-3-[4-(2-methoxy-ethoxymethoxy)-phenyl]acrylonitrile (29.1 g, yield: 86%). Separately, 2-methoxyethoxymethyl chloride (4.1 g), which had been prepared in a manner similar to that described above, and 3,4-dimethoxybenzyl cyanide (3.4 g) were subjected to condensation in accordance with process B of (production process 2), to thereby produce (Z)-2-(3,4-dimethoxy-phenyl)-3-[4-(2-methoxy-ethoxymethoxy)-phenyl]acrylonitrile (5.2 g, yield: 73%). The thus-produced (Z)-2-(3,4-dimethoxy-phenyl)-3-[4-(2-methoxy-ethoxymethoxy)-phenyl]-acrylonitrile (10.2 g) was subjected to deprotection in accordance with (production process 3), to thereby produce the target product (6.22 g, yield: 74%).

reactant | 4-methoxyethoxymethoxybenzaldehyde | 21.0 g | COCCOCOC1=CC=C(C=O)C=C1 | C11H14O4
reactant | 3,4-dimethoxybenzyl cyanide | 17.7 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxyphenyl)-3-[4-(2-methoxy-ethoxymethoxy)-phenyl]acrylonitrile | 29.1 g, yield: 86% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC=C(C=C1)OCOCCOC | C21H23NO5
